US07582644B2
i) Pyrrolidine-1-sulfonamide
Pyrrolidine (3.37 g) and sulfamide (7.10 g) in 1,4-dioxane (110 ml) were heated at reflux for 24 h. The solvent was evaporated under reduced pressure and the resulting solid suspended in CHCl3. The suspension was filtered and the filtrate concentrated in vacuo to afford the subtitle compound as a white solid. Yield: 5.35 g.

reactant | Pyrrolidine | 3.37 g | N1CCCC1 | C4H9N
reactant | sulfamide | 7.10 g | S(=O)(=O)(N)N | H4N2O2S
solvent | 1,4-dioxane | 110 ml | O1CCOCC1 | C4H8O2
product | Pyrrolidine-1-sulfonamide | N1(CCCC1)S(=O)(=O)N | C4H10N2O2S
